US05912247
2-[4-(Benzyloxycarbonyl)piperazin-1-yl]-4-[(2S,3S)-(2,3-dihydroxybutan-1-yl)oxy]quinazoline (5.1 g) is dissolved in methanol (90 ml)--dioxane (10 ml), and thereto is added 10% palladium/carbon (0.5 g), and the mixture is stirred under hydrogen atmosphere and under atmospheric pressure at room temperature for 16 hours. The reaction mixture is filtered, and the filtrate is evaporated to dryness under reduced pressure to give 4-[(2S,3S)-(2,3-dihydroxybutan-1-yl)oxy]-2-(1-piperazinyl)quinazoline (3.3 g).

reactant | 2-[4-(Benzyloxycarbonyl)piperazin-1-yl]-4-[(2S,3S)-(2,3-dihydroxybutan-1-yl)oxy]quinazoline | 5.1 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=NC2=CC=CC=C2C(=N1)OC[C@@H]([C@H](C)O)O | C24H28N4O5
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 90 ml | CO | CH4O
catalyst | palladium/carbon | 0.5 g | [Pd] | Pd
product | 4-[(2S,3S)-(2,3-dihydroxybutan-1-yl)oxy]-2-(1-piperazinyl)quinazoline | 3.3 g | O[C@@H](COC1=NC(=NC2=CC=CC=C12)N1CCNCC1)[C@H](C)O | C16H22N4O3
